US05817678
Step A: Preparation of 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-(benzyloxycarbonyl)amino piperidine
1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-piperidine-5-carboxylic acid (1.87 g, 6.51 mmol), benzyl alcohol (1.68 mL, 16,3 mmol), diphenyl phosphorylazide (1.47 mL, 6.83 mmol), and Et3N (0.95 mL, 6.83 mmol) were dissolved in toluene (50 mL). The solution was heated at 90° C. for 4 h. The solution was diluted with EtOAc and was washed with Sat. NaHCO3 solution, water, and brine. The organics were dried (MgSO4), filtered, and concentrated to give the title compound without further purification.

reactant | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-piperidine-5-carboxylic acid | 6.51 mmol, 1.87 g | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(=O)O)C(=O)OC | C13H21NO6
reactant | benzyl alcohol | 16,3 mmol, 1.68 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | diphenyl phosphorylazide | 6.83 mmol, 1.47 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 6.83 mmol, 0.95 mL | CCN(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-(benzyloxycarbonyl)amino piperidine | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C20H28N2O6
